US03971791
Upon boiling a solution of 9.3 g of 2-bromobenzaldehyde, 5.6 g of cyclohexane-1,3-dione and 6.5 g of amidinoacetic acid ethyl ester in 100 ml of ethanol for 6 hours, 2-amino-4-(2-bromopheny)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester of melting point 245°C (ethanol) is obtained. Yield: 46% of theory.

reactant | 2-bromobenzaldehyde | 9.3 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | cyclohexane-1,3-dione | 5.6 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | amidinoacetic acid ethyl ester | 6.5 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-4-(2-bromopheny)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester | Yield: 46% | C(C)OC(=O)C1=C(NC=2CCCC(C2C1C1=C(C=CC=C1)Br)=O)N | C18H19BrN2O3
